US08613940B2
Resveratrol (100 mg; 0.44 mmol) was dissolved in 1 mL of pyridine. Palmitoyl chloride (425 μL; 1.40 mmol; 3.2 equiv) was added with immediate solid formation noted. This mixture was stirred at ambient temperature for 12 h at which point HPLC analysis indicated no resveratrol present. The mixture was partitioned into ethyl acetate and water and the water layer was decanted. The top organic layer was washed sequentially with 1.5 M HCl (10 mL) and 5% sodium bicarbonate (10 mL), dried (MgSO4), and concentrated to afford 0.45 g (99%) of resveratrol tripalmitate.

reactant | Resveratrol | 0.44 mmol, 100 mg | C1(=CC(O)=CC(O)=C1)C=CC1=CC=C(O)C=C1 | C14H12O3
reactant | Palmitoyl chloride | 1.40 mmol, 425 μL, 3.2 equiv | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | resveratrol tripalmitate | 0.45 g, 99% | C(CCCCCCCCCCCCCCC)(=O)OC=1C=C(C=C(C1)OC(CCCCCCCCCCCCCCC)=O)C=CC1=CC=C(OC(CCCCCCCCCCCCCCC)=O)C=C1 | C62H102O6
